US04219648
α-Amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid hydrochloride (0.01 m) is dissolved in a mixture of equal parts of water and dioxane. Triethylamine (0.01 m) and tert-butoxycarbonylazide (0.01 m) are added to the mixture which is stirred for 18 hours at room temperature. The dioxane is evaporated from the mixture, ethyl acetate is added and the pH of the aqueous phase is adjusted to about 2.5 with the addition of 1 N hydrochloric acid. The phases are separated and the aqueous phase is extracted a second time with additional ethyl acetate. The ethyl acetate is separated from the aqueous phase. These extracts are combined and dried over magnesium sulfate. Evaporation of the ethyl acetate gives α-(tert-butoxycarbonyl)amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid.

reactant | α-Amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid hydrochloride | Cl.NC(C(=O)O)C1=CC=CC=2CSCC21
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | tert-butoxycarbonylazide | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | α-(tert-butoxycarbonyl)amino(1,3-dihydrobenzo[c]thien-4-yl)acetic acid | C(C)(C)(C)OC(=O)C(C(=O)O)(C1=CC=CC=2CSCC21)N | C15H19NO4S
